2188-03-31 08:02:00 Physician Resident Progress Note
Chief Complaint: change in mental status
   24 Hour Events:
   SBPs mantained 150-160
   Norepinephrine d/c
   Neuro met w/ family on [**3-29**] to discuss difficulty in determining long
   term prognosis at this point, to re-address later in week.
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin
 [**3-25**]-Piperacillin/Tazobactam (Zosyn) - [**2188-3-31**] 05:39 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min (for sbp < 110)
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2188-3-31**] 01:01 AM
   Other medications:
   Famotidine
   IV heparin
   Tylenol prn
   Zofran prn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-3-31**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.4
   HR: 85 (66 - 103) bpm
   BP: 130/49(70) {130/46(69) - 179/78(107)} mmHg
   RR: 12 (8 - 13) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,065 mL
                                                                    376 mL
   PO:
             TF:
   IVF:
                                                                  2,065 mL
                                                                    376 mL
   Blood products:
   Total out:
                                                                    590 mL
                                                                    305 mL
   Urine:
                                                                    590 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,475 mL
                                                                     71 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal, No(t) Absent), (S2: Normal), No(t) Rub,
   (Murmur: No(t) Diastolic)
   Peripheral Vascular: warm extremities, no cyanosis / clubbing.
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed, bilat lower extremity dressings in place
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, opens eyes to verbal stimulation; cannot follow motor
   commands
   Labs / Radiology
   370 K/uL
   12.4 g/dL
   111 mg/dL
   1.5 mg/dL
   25 mEq/L
   3.9 mEq/L
   28 mg/dL
   106 mEq/L
   141 mEq/L
   37.7 %
   13.4 K/uL
        [image002.jpg]
                             [**2188-3-30**]  03:00 AM
                             [**2188-3-31**]  03:06 AM
   WBC
   13.9
   13.4
   Hct
   37.1
   37.7
   Plt
   296
   370
   Cr
   1.3
   1.5
   Glucose
   110
   111
   Other labs: PT / PTT / INR:14.9/68.7/1.3, ALT / AST:14/20, Alk Phos / T
   Bili:185/1.2, Amylase / Lipase:50/17, Albumin:2.0 g/dL, LDH:291 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Assessment and Plan
   66 y /o F with poor medical follow up in the past, who presented with
   worsening leg ulcers and swelling, weight loss found to have systolic
   HF, pulmonary embolism, lingular pneumonia and acute ischemic stroke.
   # Ischemic stroke:
   Multiple territories suggesting an embolic [**Last Name (un) 1759**].
   TTE [**3-31**] (today) did not show LV thrombus (in contrast to previous CT)
   or PFO via IV bubble study.
   LE dopplers negative for DVT on [**3-25**] (admit).
   Thus, SOURCE is unclear.
   [**Name2 (NI) **] neuro, outside24 hrs for benefit SBP elevation w/ pressors, will
   d/c.
   -          Q 1-2 hr NEURO checks
   -          LOW threshold for CT head with any changes (at risk edema
   still)
   -          Carotid evaluation, cholesterol panel
   -          Speech / swallow eval, once starts to recover mental status
   -          Aspiration precautions / NPO, HOB elevation
   -          Maintain SBP > 110, can add pressors below this level
   -          Stress ulcer ppx w/ H2 blockade / famotidine
   # CHF:
   EF 20% concern for amyloid, infiltrative (sarcoid) disease.  CAD also
   on ddx, as is HTN CMY, DM (A1c 8.9).
   Holding BB, Ace I, Lasix given BP goals.
   Currently stable, oxygenating well, no obvious fluid overload.
   SPEP / UPEP wnl.
   - hold bb, ace I, lasix
   - holding on further w/u (bx for amyloid, etc) until goals of care
   better established
   # Pulm
   **Multilobar Aspiration Pneumonia found on Chest CT.
   No fevers since [**3-25**] (at least).  No O2 requirement.
   - Cont Vanc d 7 & Zosyn d [**2-15**] covering for now.   Will treat for
   combined therapy total 8 days.
   - Aspiration precautions
   ** Acute Pulmonary Embolus:
   Unclear source.  LENIS negative.  ? risk factors, ? malignancy, leg
   ulcers / wounds.
   Cont Heparin gtts goal 70 PTT
   .
   # Cholestasis
   Elevated LDH and alk phos, GGT
   CT scan showed sludge in the gall bladder.
   Pt no tenderness on abdomen / grimacing.  No guarding, fevers, and LFTs
   trending toward improvement.
   Can hold off on RUQ U/S now, unless further resolution of LDH, etc.
   .
   #  Weight Loss: concerning for malignancy given abdominal CT findings.
   Malignancy would help explain weight loss, PEs, and overall
   hypercoagulable state, as well as thickened endometrial stripe, ?
   sarcomatous change on fibroids.
   Will need to balance w/u for this on neuro status / goals of care and
   ability to safely bx in the ICU setting.
   -          will need age appropiate screening mamogram, pap smear and
   colonoscopy if acute issues improved.
   -          F/u w/ OB/GYN for possible resection / bx
   # DX diabetes
   New Dx: HB A1c 8.9.
   Cont insulin slinding scale
   .
   #  Anemia: iron studies suggest anemia of chornic disease.
   - will monitor, cbc
   # Leg Ulcers
   Appreciate Derm, plastics, vascular input.
   ? cholesterol emboli as source vs cellulitis, PVD w/ DM with possible
   secondary wound infxn.
   - Cont zosyn for pseudomonas coverage.  ~ 6 days remaining on PNA
   treatment, will readdress need to continue at that piint.
   - cont Collagenase dressings
   # Prophylaxis: H2 blocker, IV  heparin,
   .
   # FEN: NPO
          Replete lytes as necessary
   .
   #Access: PICC line right arm
   # Dispo: pending  further neurological improvement
   ICU Care
   Nutrition:
   Glycemic Control: ssi
   Lines:
   PICC Line - [**2188-3-29**] 06:48 PM
   18 Gauge - [**2188-3-29**] 06:49 PM
   Prophylaxis:
   DVT: IV heparin
   Stress ulcer:  h2 blocker
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: [**Hospital Unit Name 44**] ; readdress regarding neurologic concerns
   ------ Protected Section ------
   FEN
   D10 @ 30 cc for nutritional support
   IV multivitamins until definitive nutritional support
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 1779**], MD
   on:[**2188-3-31**] 16:44 ------

2188-03-31 09:22:00 Physician Attending Progress Note
Chief Complaint: stroke
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Discussion with family --> DNR/DNI with comfort as most important
   priority.  No invasive procedures.
   History obtained from Medical records, ICU team
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2188-3-31**] 05:39 AM
   Vancomycin - [**2188-3-31**] 08:16 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2188-3-31**] 01:01 AM
   Famotidine (Pepcid) - [**2188-3-31**] 08:16 AM
   Other medications:
   Please see [**Month (only) **] (reviewed in detail on rounds).
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-3-31**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.8
C (98.2
   HR: 78 (66 - 103) bpm
   BP: 162/49(78) {130/46(69) - 179/78(102)} mmHg
   RR: 12 (8 - 13) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  2,065 mL
                                                                    652 mL
   PO:
             TF:
   IVF:
                                                                  2,065 mL
                                                                    652 mL
   Blood products:
   Total out:
                                                                    590 mL
                                                                    355 mL
   Urine:
                                                                    590 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,475 mL
                                                                    297 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: Not assessed, No(t)
   Sedated, Tone: Increased, eyes deviated.  Doesn't respond even to
   noxious stimuli.
   Labs / Radiology
   12.4 g/dL
   370 K/uL
   111 mg/dL
   1.5 mg/dL
   25 mEq/L
   3.9 mEq/L
   28 mg/dL
   106 mEq/L
   141 mEq/L
   37.7 %
   13.4 K/uL
        [image002.jpg]
                             [**2188-3-30**]  03:00 AM
                             [**2188-3-31**]  03:06 AM
   WBC
   13.9
   13.4
   Hct
   37.1
   37.7
   Plt
   296
   370
   Cr
   1.3
   1.5
   Glucose
   110
   111
   Other labs: PT / PTT / INR:14.9/68.7/1.3, ALT / AST:14/20, Alk Phos / T
   Bili:185/1.2, Amylase / Lipase:50/17, Albumin:2.0 g/dL, LDH:291 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   66 y/o woman who had not sought care in many years was admitted to the
   hospital on [**2188-3-25**] with leg ulcers and, in rapid succession, was
   diagnosed with heart failure, pneumonia, pulmonary embolism, and
   possible uterine malignancy.  Many of these may represent the acute
   discovery of chronic problems.
   However, she developed a major acute CVA (likely embolic), which is now
   the major acute issue.
   acute CVA (likely embolic)
   - continue anticoagulation, although substantial risk for hemorrhagic
   conversion
   - appreciate neurology's help
   - she is outside the usual window for which we would use vasopressors
   to support blood pressure
 discontinue
   - no treatment for hypertension unless very hypertense
   - repeat echo with bubble
   - per neurology, we will need a few more days to determine prognsosi
   heart failure systolic (likely acute on chronic)
   - depending on tempo of CVA, will need evaluation for etiology of CHF
   - echo DDx includes hypertensive cardiomyopathy and infiltrative
   disease
   - repeat echo with bubble
   - hold an ACEI and beta blocker for now given CVA, but would eventually
   benefit
   - follow-up SPEP/UPEP
   pulmonary embolism
   - heparin
   abnormal uterus (with possibility of sarcomatous degeneration)
   - further evaluation on hold pending course of CVA, but malignancy is
   certainly in DDx
   pneumonia
   - on antibiotics
 eight-day course
   abnormal LFTs
   - follow LFTs
   - may need RUQ imaging
   Other
   - most likely unifying diagnosis is heart failure (undiagnosed),
   perhaps accompanied be malignancy, with venous clots that also shunted
   across a PFO, leading to embolic stroke.  Left-sided clots are also
   possible, leading to emboli.
   - may eventually need evaluation for hypercoag state if malignancy is
   not confirmed
   - doubt vasculitis, but multisystem disease and existing leg ulcers
   raises possibility.  We are unable to review all labs and imaging at
   present because information systems are not working.  Would review
   axial imaging tomorrow, as well as any existing serologies.
 HEART FAILURE (CHF), SYSTOLIC, ACUTE
 .H/O LOCAL SKIN INFECTION NOS
 PNEUMONIA, OTHER
 DIABETES MELLITUS (DM), TYPE II
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2188-3-29**] 06:48 PM
   18 Gauge - [**2188-3-29**] 06:49 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent:
   Patient is critically ill

2188-04-01 07:01:00 Physician Resident Progress Note
Chief Complaint: decreased mental status
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2188-3-31**] 09:31 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-3-31**] 08:16 AM
   Piperacillin/Tazobactam (Zosyn) - [**2188-4-1**] 06:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2188-3-31**] 08:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-1**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 101 (74 - 119) bpm
   BP: 136/59(76) {120/49(68) - 193/81(110)} mmHg
   RR: 11 (10 - 20) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  1,545 mL
                                                                    427 mL
   PO:
             TF:
   IVF:
                                                                  1,545 mL
                                                                    427 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                    180 mL
   Urine:
                                                                    955 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    590 mL
                                                                    247 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   335 K/uL
   12.1 g/dL
   136 mg/dL
   1.4 mg/dL
   22 mEq/L
   3.9 mEq/L
   25 mg/dL
   103 mEq/L
   138 mEq/L
   36.1 %
   14.9 K/uL
        [image002.jpg]
                             [**2188-3-30**]  03:00 AM
                             [**2188-3-31**]  03:06 AM
                             [**2188-4-1**]  03:46 AM
   WBC
   13.9
   13.4
   14.9
   Hct
   37.1
   37.7
   36.1
   Plt
   296
   370
   335
   Cr
   1.3
   1.5
   1.4
   Glucose
   110
   111
   136
   Other labs: PT / PTT / INR:14.4/67.4/1.2, ALT / AST:13/22, Alk Phos / T
   Bili:193/1.4, Amylase / Lipase:50/17, Albumin:2.0 g/dL, LDH:291 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   66 y /o F with poor medical follow up in the past, who presented with
   worsening leg ulcers and swelling, weight loss found to have systolic
   HF, pulmonary embolism, lingular pneumonia and acute ischemic stroke.
   # Ischemic stroke:
   Multiple territories suggesting an embolic [**Last Name (un) 1759**].
   TTE [**3-31**] (today) did not show LV thrombus (in contrast to previous CT)
   or PFO via IV bubble study.
   LE dopplers negative for DVT on [**3-25**] (admit).
   Thus, SOURCE is unclear.
   [**Name2 (NI) **] neuro, outside24 hrs for benefit SBP elevation w/ pressors, will
   d/c.
   -          Q 1-2 hr NEURO checks
   -          LOW threshold for CT head with any changes (at risk edema
   still)
   -          Carotid evaluation, cholesterol panel
   -          Speech / swallow eval, once starts to recover mental status
   -          Aspiration precautions / NPO, HOB elevation
   -          Maintain SBP > 110, can add pressors below this level
   -          Stress ulcer ppx w/ H2 blockade / famotidine
   # CHF:
   EF 20% concern for amyloid, infiltrative (sarcoid) disease.  CAD also
   on ddx, as is HTN CMY, DM (A1c 8.9).
   Holding BB, Ace I, Lasix given BP goals.
   Currently stable, oxygenating well, no obvious fluid overload.
   SPEP / UPEP wnl.
   - hold bb, ace I, lasix
   - holding on further w/u (bx for amyloid, etc) until goals of care
   better established
   # Pulm
   **Multilobar Aspiration Pneumonia found on Chest CT.
   No fevers since [**3-25**] (at least).  No O2 requirement.
   - Cont Vanc d 7 & Zosyn d [**2-15**] covering for now.   Will treat for
   combined therapy total 8 days.
   - Aspiration precautions
   ** Acute Pulmonary Embolus:
   Unclear source.  LENIS negative.  ? risk factors, ? malignancy, leg
   ulcers / wounds.
   Cont Heparin gtts goal 70 PTT
   .
   # Cholestasis
   Elevated LDH and alk phos, GGT
   CT scan showed sludge in the gall bladder.
   Pt no tenderness on abdomen / grimacing.  No guarding, fevers, and LFTs
   trending toward improvement.
   Can hold off on RUQ U/S now, unless further resolution of LDH, etc.
   .
   #  Weight Loss: concerning for malignancy given abdominal CT findings.
   Malignancy would help explain weight loss, PEs, and overall
   hypercoagulable state, as well as thickened endometrial stripe, ?
   sarcomatous change on fibroids.
   Will need to balance w/u for this on neuro status / goals of care and
   ability to safely bx in the ICU setting.
   -          will need age appropiate screening mamogram, pap smear and
   colonoscopy if acute issues improved.
   -          F/u w/ OB/GYN for possible resection / bx
   # DX diabetes
   New Dx: HB A1c 8.9.
   Cont insulin slinding scale
   .
   #  Anemia: iron studies suggest anemia of chornic disease.
   - will monitor, cbc
   # Leg Ulcers
   Appreciate Derm, plastics, vascular input.
   ? cholesterol emboli as source vs cellulitis, PVD w/ DM with possible
   secondary wound infxn.
   - Cont zosyn for pseudomonas coverage.  ~ 6 days remaining on PNA
   treatment, will readdress need to continue at that piint.
   - cont Collagenase dressings
   # Prophylaxis: H2 blocker, IV  heparin,
   .
   # FEN:
   D10 @ 30 cc
   IV multivitamins
   Replete lytes as necessary
   #Access: PICC line right arm
   # Dispo: pending  further neurological improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2188-3-29**] 06:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2188-04-01 10:10:00 Physician Attending Progress Note
Chief Complaint: stroke
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Family meeting (see note).
 TRANSTHORACIC ECHO - At [**2188-3-31**] 09:31 AM
   Echo interpretation initially c/w PFO.  Although formal interpretation
   only notes "no PFO or ASD," we have discussed with cardiology and she
   reportedly has *late* bubbles that may be consistent with
   intrapulmonary shunt.
   History obtained from Medical records, ICU team
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2188-4-1**] 06:00 AM
   Vancomycin - [**2188-4-1**] 08:15 AM
   Infusions:
   Heparin Sodium - 786 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2188-4-1**] 08:08 AM
   Other medications:
   heparin, vanco, Zosyn, H2B, MVI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-1**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.5
C (97.7
   HR: 124 (80 - 124) bpm
   BP: 136/59(76) {120/49(68) - 193/81(110)} mmHg
   RR: 11 (10 - 20) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 64 Inch
             Total In:
                                                                  1,542 mL
                                                                    824 mL
   PO:
             TF:
   IVF:
                                                                  1,542 mL
                                                                    824 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                    257 mL
   Urine:
                                                                    955 mL
                                                                    257 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    587 mL
                                                                    567 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: decreased basilar breath sounds with slight
   crackles
   Abdominal: Soft, Non-tender
   Extremities: dressings in place
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: No spontaneous movement, No(t) Sedated,
   Tone: Normal, eye deviation persists with abnormal doll's eye toward
   right; otherwise CN intact
   Labs / Radiology
   12.1 g/dL
   335 K/uL
   136 mg/dL
   1.4 mg/dL
   22 mEq/L
   3.9 mEq/L
   25 mg/dL
   103 mEq/L
   138 mEq/L
   36.1 %
   14.9 K/uL
        [image002.jpg]
                             [**2188-3-30**]  03:00 AM
                             [**2188-3-31**]  03:06 AM
                             [**2188-4-1**]  03:46 AM
   WBC
   13.9
   13.4
   14.9
   Hct
   37.1
   37.7
   36.1
   Plt
   296
   370
   335
   Cr
   1.3
   1.5
   1.4
   Glucose
   110
   111
   136
   Other labs: PT / PTT / INR:14.4/67.4/1.2, ALT / AST:13/22, Alk Phos / T
   Bili:193/1.4, Amylase / Lipase:50/17, Differential-Neuts:84.7 %,
   Band:0.0 %, Lymph:10.1 %, Mono:4.2 %, Eos:1.0 %, Albumin:2.0 g/dL,
   LDH:291 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Imaging: CXR: "In comparison with the study of [**3-28**], there is a hazy
   opacification
   involving the left hemithorax, consistent with a large pleural
   effusion.  Less
   marked effusion is seen on the right.  Enlargement of the cardiac
   silhouette
   may be more prominent than on the previous examination.  Central
   catheter
   remains in place. "
   Echo: Also see HPI.  "The left atrium is dilated. No thrombus/mass is
   seen in the body of the left atrium. The right atrium is dilated. No
   atrial septal defect or patent foramen ovale is seen by 2D, color
   Doppler or saline contrast with maneuvers. There is moderate global
   left ventricular hypokinesis (LVEF = 35 %). No masses or thrombi are
   seen in the left ventricle. The RV has mild to moderate global free
   wall hypokinesis. Mild to moderate ([**1-9**]+) mitral regurgitation is seen.
   Moderate [2+] tricuspid regurgitation is seen. "
   Assessment and Plan
   66 y/o woman who had not sought care in many years was admitted to the
   hospital on [**2188-3-25**] with leg ulcers and, in rapid succession, was
   diagnosed with heart failure, pneumonia, pulmonary embolism, and
   possible uterine malignancy.  Many of these may represent the acute
   discovery of chronic problems.
   However, she developed a major acute CVA (likely embolic), which is now
   the major acute issue.
   acute CVA (likely embolic)
   - continue anticoagulation, although substantial risk for hemorrhagic
   conversion
   - may be reasonable to begin warfarin soon
   - appreciate neurology's help
   - no treatment for hypertension unless very hypertense
   - per neurology, we will need a few more days to determine prognosis
   - if shows substantial improvement, will need full hypercoag workup,
   etc.
   heart failure systolic (likely acute on chronic)
   - depending on recovery from CVA, will need evaluation for etiology of
   CHF
   - echo DDx includes hypertensive cardiomyopathy and infiltrative
   disease
   - hold an ACEI and beta blocker for now given CVA, but would eventually
   benefit
   - SPEP/UPEP were negative
   pulmonary embolism
   - heparin
   pleural effusion
   - if she shows substantial recovery from CVA, may need to pursue
   thoracentesis but hold for now
   abnormal uterus (with possibility of sarcomatous degeneration)
   - further evaluation on hold pending course of CVA, but malignancy is
   certainly in DDx
   pneumonia
   - on antibiotics
 eight-day course (complete course on [**4-6**])
   DIABETES MELLITUS (DM), TYPE II
   - on subcutaneous insulin as needed
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2188-3-29**] 06:48 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Long discussion with family yesterday.  They would not pursue prolonged
   life support (including nutrition) if she does not show improvement.
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent:

2188-04-01 15:34:00 Physician Resident Progress Note
Chief Complaint: impaired mental status
   24 Hour Events:
   CT head -> resolving infarcts, no midline shift, no change size
   ventricle
   pressors (norepi) d/c'd
   family meeting --> patient would not want to be on chronic life
   support, including intubation, nutrition
   TTE -> bubbles on 6 beats of bubbles, ? pfo vs pulmonary avm
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2188-4-1**] 08:15 AM
   Piperacillin/Tazobactam (Zosyn) - [**2188-4-1**] 01:48 PM
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2188-4-1**] 08:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-4-1**] 03:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.5
   HR: 83 (80 - 124) bpm
   BP: 178/96(117) {127/53(70) - 193/96(127)} mmHg
   RR: 12 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 64 Inch
             Total In:
                                                                  1,545 mL
                                                                  1,430 mL
   PO:
             TF:
   IVF:
                                                                  1,545 mL
                                                                  1,430 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                    379 mL
   Urine:
                                                                    955 mL
                                                                    379 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    590 mL
                                                                  1,051 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: No(t) Endotracheal tube, No(t) NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   No(t) Oriented (to): , Movement: Not assessed, No(t) Sedated, Tone: Not
   assessed, not responding to painful stimulation.  Dolls eye response w/
   eyes as rotate head.  in contrast to [**3-31**] eyes able to move right,
   beyond midline
   Labs / Radiology
   335 K/uL
   12.1 g/dL
   136 mg/dL
   1.4 mg/dL
   22 mEq/L
   3.9 mEq/L
   25 mg/dL
   103 mEq/L
   138 mEq/L
   36.1 %
   14.9 K/uL
        [image002.jpg]
                             [**2188-3-30**]  03:00 AM
                             [**2188-3-31**]  03:06 AM
                             [**2188-4-1**]  03:46 AM
   WBC
   13.9
   13.4
   14.9
   Hct
   37.1
   37.7
   36.1
   Plt
   296
   370
   335
   Cr
   1.3
   1.5
   1.4
   Glucose
   110
   111
   136
   Other labs: PT / PTT / INR:14.4/67.4/1.2, ALT / AST:13/22, Alk Phos / T
   Bili:193/1.4, Amylase / Lipase:50/17, Differential-Neuts:84.7 %,
   Band:0.0 %, Lymph:10.1 %, Mono:4.2 %, Eos:1.0 %, Albumin:2.0 g/dL,
   LDH:291 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   CXR
   FINDINGS:  In comparison with the study of [**3-28**], there is a hazy opacif
   ication
   involving the left hemithorax, consistent with a large pleural effusion
   .  Less
   marked effusion is seen on the right.  Enlargement of the cardiac silho
   uette
   may be more prominent than on the previous examination.  Central cathet
   er
   remains in place.
   Head CT
   FINDINGS:  Compared with the prior head CT scan and in complete accorda
   nce
   with the MRI scan of the brain performed the same day ([**3-29**]), there is
   the
   expected evolution of multiple infarcts within both anterior cerebral a
   rtery
   territories as well as a substantial portion of the inferior division o
   f the
   right middle cerebral artery.  Within the less sensitive capacity of CT
   ,
   compared to MRI scanning with diffusion-weighted imaging, there is no o
   vert
   new additional infarct identified.  Certainly, the multiple infarcts co
   uld
   relate to the stated ophthalmologic abnormalities noted in your history
   .
   There is no intracranial hemorrhage.  There is no shift of normally mid
   line
   structures or overt interval change in ventricular size.
   CONCLUSION:  Evolution of multiple moderately large infarcts within sev
   eral
   vascular territories, as described above.
   TTE
   The left atrium is dilated. No thrombus/mass is seen in the body of the
   left atrium. The right atrium is dilated. No atrial septal defect or
   patent foramen ovale is seen by 2D, color Doppler or saline contrast at
   rest (maneuvers were not performed). The appearance of saline contrast
   late (> 5 hearbeats after RA opacification) in the left heart is
   suggestive of pulmonary arteriovenous malformations. There is moderate
   global left ventricular hypokinesis (LVEF = 35 %). No masses or thrombi
   are seen in the left ventricle. The RV has mild to moderate global free
   wall hypokinesis. Mild to moderate ([**1-9**]+) mitral regurgitation is seen.
   Moderate [2+] tricuspid regurgitation is seen.
   Compared with the prior study (images reviewed) of [**2188-3-26**], the LVEF
   has slightly improved. If clinically indicated, a repeat saline
   contrast study with maneuvers would be more sensitive for a PFO.
   Assessment and Plan
   66 yo female with multifocal ischemic stroke, systolic CHF, acute Pes,
   pneumonia, and uterine mass
   # Ischemic CVA
   Cryptogenic stroke.  Nl cholesterol, doplers negative, probably not PFO
   on TTE.
   At this point will defer workup of repeat TTE, carotids until
   definitive plan of care established.
   Was concern for change in neuro exam w/ eye deviation, however no gross
   new abnormalities on Ct scan.
   -          speech / swallow
   -          - aspiration precautions
   -          Stress ulcer ppx w/ famotidine
   # CHF
   Repeat EF @ 35%, improved vs before.
   Unclear ddx at this point, but given findings of ? infiltrative process
   includes sarcoid, amyloid, or also HTN cmy.
   Holding BB, ace I, Lasix currently.
   # Pulm /
   Pneumonia
   Multilobar pneumonia.
   Will treat total 8 d for aspiration, vanco d 8, zosyn d 3 of 8 (will
   treat w/ zosyn to cover skin for pseudomonas per derm reccs)
   PE
   Risk: ? malignancy, leg ulcers.
   Cont IV heparin, even though increaseed risk for hemorrhagic conversion
   of cva.
   # Uterine Mass
   Concern for malignancy given weight loss + increased thickness,
   sarcomatous degeneration?
   w/u pending goals of care discussion
   # Diabetes
   Cont sliding scale
   # Leg Ulcers
   Unclear diagnosis, doubt embolic source.
   Daily dressing changes
   Cont pseudomonas coverage w/ zosyn.
   # Goals of care
   Family discussion planned [**4-2**] w/ neurology.
   ICU Care
   Nutrition:
   Glycemic Control:  sliding scale
   Lines:
   PICC Line - [**2188-3-29**] 06:48 PM
   Prophylaxis:
   DVT: iv heparin
   Stress ulcer: famotidine
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: to floor